US07129239B2
Preparation of 1-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-piperazine-2-carboxylic Acid Ethyl Ester, Hydrochloride Salt (8A-1)
4-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-piperazine-1,3-dicarboxylic acid tert-butyl ester I-(8A-1)a was dissolved in 4 M HCl in dioxane (0.5 ml). After 30 minutes, the now heterogeneous reaction was concentrated under reduced pressure and then triturated from ether to afford title compound 8A-1 (38 mg, quantitative): +ESI MS (M+1) 497.2; 1H NMR (400 MHz, CD3OD) δ 8.43 (s, 1H), 7.58 (d, J=7.5 Hz, 1H), 7.51–7.30 (m, 7H), 4.35–4.15 (m, 2H), 4.06 (d, J=13.3 Hz, 1H), 3.73–3.47 (m, 5H), 3.40–3.30 (m, 1H), 1.23 (t, J=7.1 Hz, 3H).

reactant | 4-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-piperazine-1,3-dicarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)C(=O)O | C27H26Cl2N6O4
reactant | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | HCl | 4 M | Cl | ClH
product | 1-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-piperazine-2-carboxylic Acid Ethyl Ester, Hydrochloride Salt | Cl.C(C)OC(=O)C1N(CCNC1)C1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | InChI=1S/C24H22Cl2N6O2.ClH/c1-2-34-24(33)19-13-27-11-12-31(19)22-20-23(29-14-28-22)32(16-9-7-15(25)8-10-16)21(30-20)17-5-3-4-6-18(17)26;/h3-10,14,19,27H,2,11-13H2,1H3;1H
